* File: XNOR2D8.cdl.pex
* Created: Wed Jan 15 22:07:23 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_XNOR2D8%IN2 3 6 11 14 19 22 25 33 37 38 42 45 47 48 49 50 52 53 54 58
+ 60 61 62 67 69 70 76 79 80 81 82 84 86 87 88 93
c139 93 0 0.0121652f
c140 88 0 0.0446352f
c141 87 0 0.306587f
c142 86 0 0.315123f
c143 84 0 0.286803f
c144 82 0 0.0240728f
c145 81 0 0.192154f
c146 80 0 0.0586866f
c147 79 0 0.472627f
c148 76 0 0.0247491f
c149 70 0 0.244678f
c150 69 0 0.254057f
c151 67 0 0.069474f
c152 62 0 0.27429f
c153 61 0 0.604682f
c154 60 0 0.784395f
c155 58 0 0.605582f
c156 54 0 0.401291f
c157 53 0 0.548321f
c158 52 0 0.548143f
c159 50 0 0.548988f
c160 49 0 0.473153f
c161 48 0 0.449847f
c162 47 0 0.028616f
c163 45 0 0.0626709f
c164 42 0 0.702847f
c165 38 0 0.058526f
c166 37 0 0.325832f
c167 25 0 0.843132f
c168 22 0 0.401291f
c169 14 0 0.493362f
c170 11 0 0.259682f
c171 6 0 1.06795f
c172 3 0 0.28336f
r173 86 87 1.35333
r174 85 88 0.0417772
r175 85 86 1.35333
r176 84 93 0.0417772
r177 84 87 1.35333
r178 79 80 0.375
r179 76 93 0.0233333
r180 76 78 0.488662
r181 69 88 0.0233333
r182 69 70 0.512484
r183 66 83 0.049177
r184 66 67 2.33333
r185 62 83 0.831548
r186 60 61 14.5
r187 60 82 14.5
r188 58 67 0.279364
r189 58 61 14.5
r190 55 81 0.071516
r191 54 82 0.282372
r192 52 53 10.305
r193 52 80 10.305
r194 50 81 0.473684
r195 50 53 10.3067
r196 49 79 8.91667
r197 48 49 8.91667
r198 47 48 8.91667
r199 45 47 0.279364
r200 45 78 1.58333
r201 38 73 0.831548
r202 37 42 0.831548
r203 37 72 3.58333
r204 34 73 0.049177
r205 34 70 2.58333
r206 33 72 0.387484
r207 33 69 0.125
r208 25 54 5
r209 22 25 10.5
r210 22 55 5
r211 19 42 5
r212 14 62 5
r213 11 14 10.5
r214 3 6 10.5
r215 3 38 5
.ends

.subckt PM_XNOR2D8%net45 1 2 23 26 29 33 37 41 59 62 63 67 68 75 76 77 79 87 88
+ 89 93 95 111 121 123 125 126 131
c120 131 0 0.163265f
c121 126 0 0.0300585f
c122 125 0 0.0327328f
c123 123 0 0.0376027f
c124 121 0 0.0388532f
c125 111 0 0.413163f
c126 95 0 0.527673f
c127 93 0 0.0402638f
c128 89 0 0.0222343f
c129 88 0 0.0624816f
c130 87 0 0.0288131f
c131 79 0 0.0514087f
c132 77 0 0.755071f
c133 76 0 0.561041f
c134 75 0 0.560637f
c135 68 0 0.0436366f
c136 67 0 0.564629f
c137 63 0 0.092901f
c138 62 0 0.275767f
c139 59 0 0.763237f
c140 41 0 0.851171f
c141 37 0 0.851857f
c142 33 0 0.854473f
c143 29 0 0.386344f
c144 2 0 0.431052f
c145 1 0 0.274236f
r146 123 135 0.0417772
r147 123 131 0.14
r148 121 126 0.0417772
r149 121 125 0.14
r150 111 125 0.0684127
r151 101 131 0.0684127
r152 89 91 0.666667
r153 87 135 0.0233333
r154 87 88 0.494913
r155 84 87 0.15
r156 82 126 0.0233333
r157 79 82 0.166667
r158 76 95 9.66667
r159 75 76 9.66667
r160 74 75 9.66667
r161 68 93 0.532372
r162 67 74 1
r163 66 91 0.0293644
r164 66 93 0.666667
r165 63 89 0.0293644
r166 63 88 1.83333
r167 61 84 0.32581
r168 61 62 3.66667
r169 60 79 0.298409
r170 59 62 0.279364
r171 59 60 12.5
r172 41 67 5
r173 37 41 10.5
r174 33 37 10.5
r175 29 33 10.5
r176 29 68 4.75
r177 26 77 0.125
r178 26 95 0.407372
r179 26 77 4.875
r180 23 111 0.0661111
r181 2 101 0.0661111
r182 1 2 0.233333
.ends

.subckt PM_XNOR2D8%net46 1 2 23 24 45 48 51 52 55 59 63 67 97 103 104 107 110
+ 112 117 132 142 144 145 146 147 148 159 161 162 163 164 165 166 167 170 194
+ 201
c176 201 0 0.215406f
c177 194 0 0.0808771f
c178 193 0 0.0393566f
c179 188 0 0.00640079f
c180 170 0 0.052874f
c181 167 0 0.423741f
c182 166 0 0.422282f
c183 165 0 0.419609f
c184 164 0 0.423299f
c185 163 0 0.0291596f
c186 162 0 0.423674f
c187 161 0 0.0872524f
c188 159 0 0.11156f
c189 148 0 0.0250009f
c190 147 0 0.395164f
c191 146 0 0.415339f
c192 145 0 0.490467f
c193 144 0 0.161174f
c194 142 0 0.387328f
c195 132 0 0.0250009f
c196 131 0 0.00742492f
c197 129 0 0.235782f
c198 117 0 0.0662677f
c199 112 0 0.0342593f
c200 110 0 0.0325263f
c201 107 0 0.0640844f
c202 104 0 0.174387f
c203 103 0 0.530717f
c204 97 0 0.0220135f
c205 67 0 1.15936f
c206 63 0 0.72992f
c207 59 0 0.730094f
c208 55 0 0.34749f
c209 52 0 0.28611f
c210 51 0 0.721402f
c211 48 0 0.338798f
c212 45 0 0.227136f
c213 24 0 0.566168f
c214 23 0 0.335711f
c215 2 0 0.526243f
c216 1 0 0.202557f
r217 168 170 0.0399111
r218 168 201 0.13
r219 166 167 1.582
r220 165 166 1.582
r221 164 165 1.582
r222 163 164 1.582
r223 162 194 0.0417772
r224 162 167 1.582
r225 161 163 0.039111
r226 160 193 0.0296412
r227 160 161 0.198333
r228 159 193 0.0296412
r229 159 192 0.501667
r230 146 147 1.69867
r231 145 146 1.69867
r232 144 145 1.69867
r233 143 188 0.00770322
r234 143 144 1.69867
r235 142 193 0.00770322
r236 142 147 1.69867
r237 131 148 0.0534439
r238 130 188 0.0296412
r239 130 131 0.0816667
r240 129 188 0.0296412
r241 128 132 0.0534439
r242 128 129 0.385
r243 117 201 0.0386436
r244 114 194 0.0233333
r245 110 192 0.0684127
r246 107 110 0.166667
r247 103 117 0.769641
r248 97 112 0.282372
r249 96 107 0.298409
r250 96 112 0.666667
r251 63 67 10.5
r252 59 63 10.5
r253 55 59 10.5
r254 55 97 5
r255 52 170 0.0466667
r256 51 103 5
r257 48 104 0.166203
r258 48 114 0.594406
r259 48 51 10.375
r260 48 104 4.875
r261 45 148 0.0777778
r262 23 24 0.233333
r263 23 52 0.256667
r264 1 2 0.233333
r265 1 132 0.0777778
.ends

.subckt PM_XNOR2D8%net43 1 2 25 28 33 36 39 40 41 44 47 48 59 70 81 128 129 135
+ 141 159 179 180 198 200 202 219 222 223 224 225 226
c114 226 0 0.321527f
c115 225 0 0.0483765f
c116 224 0 0.0664265f
c117 223 0 0.0499021f
c118 222 0 0.165875f
c119 219 0 0.0499801f
c120 202 0 0.116752f
c121 200 0 0.0581753f
c122 198 0 0.114285f
c123 180 0 0.0508665f
c124 179 0 0.176003f
c125 159 0 0.200878f
c126 141 0 0.0633637f
c127 135 0 0.235102f
c128 129 0 0.112392f
c129 128 0 0.321383f
c130 81 0 0.216775f
c131 70 0 0.379266f
c132 59 0 0.466555f
c133 48 0 0.245447f
c134 47 0 0.966011f
c135 44 0 0.281198f
c136 41 0 0.38896f
c137 40 0 0.397264f
c138 39 0 0.210411f
c139 36 0 1.00214f
c140 33 0 0.613771f
c141 28 0 0.605969f
c142 25 0 0.288412f
c143 2 0 0.410749f
c144 1 0 0.432164f
r145 223 224 0.13
r146 221 222 0.7
r147 219 221 0.039111
r148 219 226 0.116667
r149 202 225 0.0684127
r150 201 226 0.0684127
r151 200 225 0.163333
r152 197 200 0.039111
r153 197 198 0.186667
r154 180 224 0.0386436
r155 179 198 0.0534439
r156 159 223 0.0386436
r157 141 222 0.0684127
r158 141 142 0.428571
r159 129 139 0.831548
r160 128 142 0.234737
r161 127 139 0.049177
r162 127 128 6.5
r163 81 159 0.0661111
r164 70 81 0.233333
r165 59 70 0.233333
r166 48 59 0.233333
r167 44 135 0.162499
r168 44 142 0.535714
r169 44 47 10.375
r170 44 135 4.875
r171 41 202 0.0661111
r172 40 179 0.0777778
r173 39 40 0.233333
r174 39 180 0.0661111
r175 33 36 10.5
r176 28 33 10.5
r177 25 28 10.5
r178 25 129 5
r179 2 201 0.0661111
r180 1 2 0.233333
r181 1 41 0.256667
.ends

.subckt PM_XNOR2D8%IN1 3 6 11 15 19 23
c14 23 0 0.699051f
c15 19 0 0.112769f
c16 15 0 0.842098f
c17 6 0 0.944779f
c18 3 0 0.288412f
r19 19 25 0.831548
r20 17 23 0.831548
r21 16 25 0.049177
r22 15 17 3.08333
r23 15 16 4.58333
r24 11 23 5
r25 3 6 10.5
r26 3 19 5
.ends

.subckt PM_XNOR2D8%VSS 1 2 23 24 45 46 67 68 89 100 111 122 181 217 218 219 220
c82 220 0 1.73062f
c83 219 0 1.73427f
c84 218 0 1.79827f
c85 217 0 1.78193f
c86 122 0 2.08597f
c87 111 0 1.46007f
c88 100 0 1.46042f
c89 89 0 1.39305f
c90 68 0 4.87032f
c91 67 0 1.46042f
c92 46 0 1.46007f
c93 45 0 1.73298f
c94 24 0 1.46042f
c95 23 0 1.63245f
c96 2 0 1.46042f
c97 1 0 1.57415f
r98 219 220 0.448
r99 218 219 0.448
r100 217 218 0.448
r101 122 217 0.448
r102 111 122 0.14
r103 100 111 0.14
r104 89 100 0.14
r105 89 181 0.168
r106 67 68 0.14
r107 46 67 0.14
r108 45 46 0.14
r109 45 220 0.448
r110 24 181 0.116667
r111 23 24 0.14
r112 2 23 0.182
r113 1 2 0.14
.ends

.subckt PM_XNOR2D8%VDD 1 2 3 4 5 6 43 57 66 67 68 69 86 87 88 89
c73 89 0 1.14584f
c74 88 0 1.14546f
c75 87 0 1.14584f
c76 86 0 1.10637f
c77 69 0 1.77526f
c78 68 0 1.77168f
c79 67 0 1.79057f
c80 66 0 1.7957f
c81 57 0 1.58556f
c82 6 0 8.27416f
c83 5 0 1.10501f
c84 4 0 2.39892f
c85 3 0 1.75722f
c86 2 0 1.70386f
c87 1 0 1.57365f
r88 88 89 0.2828
r89 87 88 0.2828
r90 86 87 0.2828
r91 68 69 0.457333
r92 67 68 0.457333
r93 66 67 0.457333
r94 56 57 0.191333
r95 5 6 0.14
r96 5 89 0.2828
r97 4 86 0.2828
r98 3 4 0.14
r99 3 69 0.457333
r100 2 66 0.457333
r101 2 57 0.191333
r102 1 56 0.191333
r103 1 43 0.0233333
r104 1 43 0.0606667
.ends

.subckt PM_XNOR2D8%net47 1 14 27 40
c32 40 0 0.542062f
c33 27 0 0.505943f
c34 14 0 0.278315f
c35 1 0 0.227084f
r36 27 40 0.233333
r37 14 27 0.233333
r38 1 14 0.233333
.ends

.subckt PM_XNOR2D8%net44 1 3
c19 3 0 0.513036f
c20 1 0 0.261985f
r21 1 3 0.233333
.ends

.subckt PM_XNOR2D8%OUT 1 2 23 24 45 46 75 76 77
c27 77 0 0.112842f
c28 76 0 0.114362f
c29 75 0 0.426231f
c30 46 0 0.58693f
c31 45 0 0.126254f
c32 24 0 1.03529f
c33 23 0 0.55853f
c34 2 0 0.435105f
r35 75 77 0.021
r36 75 76 0.01925
r37 45 77 0.0118029
r38 45 95 0.0524574
r39 45 46 0.233333
r40 45 95 0.07
r41 23 24 0.233333
r42 2 23 0.233333
r43 1 76 0.0118029
r44 1 79 0.0524574
r45 1 2 0.233333
r46 1 79 0.07
.ends

