* File: XOR2D2.cdl.pex
* Created: Wed Jan 15 23:42:42 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_XOR2D2%IN2 3 6 9 12 17 23 24 26 29 30 31 35 38 39 46 48 49 51 56
c88 56 0 0.0145119f
c89 51 0 0.00551394f
c90 49 0 0.251481f
c91 48 0 0.450077f
c92 46 0 0.040134f
c93 39 0 0.157454f
c94 38 0 0.0898049f
c95 35 0 0.229771f
c96 31 0 0.0230921f
c97 30 0 0.892006f
c98 29 0 0.0773415f
c99 26 0 0.277501f
c100 24 0 0.401415f
c101 23 0 0.207939f
r102 50 51 0.0417772
r103 49 56 0.0417772
r104 49 50 1.16667
r105 45 56 0.0233333
r106 38 51 0.0233333
r107 38 39 0.512484
r108 34 48 8.33333
r109 31 46 0.282372
r110 30 34 1
r111 29 45 0.92349
r112 29 46 0.666667
r113 24 42 0.831548
r114 23 26 0.831548
r115 23 41 3.58333
r116 20 42 0.049177
r117 20 39 2.58333
r118 17 41 0.387484
r119 17 38 0.125
r120 12 30 5
r121 12 31 5
r122 9 35 0.125
r123 9 48 0.407372
r124 9 35 1.125
r125 6 26 1.25
r126 3 24 2.5
.ends

.subckt PM_XOR2D2%net19 1 8 9 14 20 23 24 27 28 31 33 36 37 43 46 49 51 55 58 60
+ 62 63 68
c103 68 0 0.0317591f
c104 63 0 0.0163961f
c105 62 0 0.0327328f
c106 60 0 0.0376027f
c107 58 0 0.0388532f
c108 55 0 0.101792f
c109 51 0 0.203648f
c110 49 0 0.0244413f
c111 46 0 0.0404374f
c112 43 0 0.058513f
c113 37 0 0.0487441f
c114 36 0 0.0338126f
c115 33 0 0.303046f
c116 31 0 0.552358f
c117 28 0 0.401291f
c118 27 0 0.625771f
c119 24 0 0.42661f
c120 23 0 0.136567f
c121 20 0 0.10184f
r122 60 72 0.0417772
r123 60 68 0.14
r124 58 63 0.0417772
r125 58 62 0.14
r126 55 62 0.0684127
r127 51 68 0.0684127
r128 46 47 0.5
r129 43 72 0.0233333
r130 43 45 0.488662
r131 40 63 0.0233333
r132 37 40 0.166667
r133 35 50 0.049177
r134 35 36 2.33333
r135 33 50 0.831548
r136 31 36 0.279364
r137 31 49 12.8333
r138 28 49 0.282372
r139 26 27 6.16667
r140 25 46 0.0293644
r141 25 26 6.16667
r142 24 29 1
r143 24 27 6.16667
r144 23 46 0.25
r145 23 45 3.33333
r146 21 37 0.298409
r147 20 47 0.0293644
r148 20 21 1.83333
r149 14 28 2.5
r150 14 29 2.5
r151 9 55 0.0661111
r152 8 33 2.5
r153 1 51 0.0505556
.ends

.subckt PM_XOR2D2%net17 1 6 11 14 19 22 35 37 38 40 43 45 50 52 53 54 56 59 61
+ 62 63 64 72 79 80 87
c122 87 0 0.0983268f
c123 80 0 0.0324825f
c124 79 0 0.015835f
c125 72 0 0.129688f
c126 64 0 0.052874f
c127 63 0 0.0253962f
c128 62 0 0.558247f
c129 61 0 0.0521388f
c130 59 0 0.10993f
c131 56 0 0.53157f
c132 54 0 0.109073f
c133 53 0 0.104478f
c134 52 0 0.0646262f
c135 50 0 0.00809647f
c136 45 0 0.0348574f
c137 43 0 0.0230328f
c138 40 0 0.0485676f
c139 38 0 0.153914f
c140 37 0 0.420389f
c141 35 0 0.798943f
c142 6 0 0.310435f
r143 64 87 0.13
r144 62 80 0.0417772
r145 62 63 2.03
r146 61 63 0.039111
r147 60 79 0.0296412
r148 60 61 0.198333
r149 59 79 0.0296412
r150 59 78 0.501667
r151 57 72 0.072244
r152 56 79 0.00770322
r153 56 57 2.31
r154 53 72 0.00525
r155 52 53 0.05775
r156 50 87 0.0386436
r157 47 80 0.0233333
r158 43 78 0.0684127
r159 40 43 0.166667
r160 37 50 0.769641
r161 35 45 0.282372
r162 34 40 0.298409
r163 34 45 0.666667
r164 22 38 0.166203
r165 22 47 0.594406
r166 22 37 2.375
r167 22 38 2.375
r168 19 35 5
r169 14 64 0.02245
r170 11 72 0.033285
r171 6 14 0.241111
r172 1 52 0.0145611
r173 1 54 0.0323581
r174 1 54 0.07
.ends

.subckt PM_XOR2D2%net20 1 6 9 12 13 16 27 28 30 34 45 57 58 64 66 67 68 72 75 76
+ 77 78 79
c77 79 0 0.044499f
c78 78 0 0.0483765f
c79 77 0 0.0658485f
c80 76 0 0.0311686f
c81 75 0 0.0894712f
c82 72 0 0.0499801f
c83 68 0 0.0803886f
c84 67 0 0.363561f
c85 66 0 0.030785f
c86 64 0 0.0431468f
c87 58 0 0.0319946f
c88 57 0 0.194984f
c89 45 0 0.354804f
c90 34 0 0.0196015f
c91 30 0 0.502484f
c92 28 0 0.780849f
c93 27 0 0.320981f
r94 76 77 0.13
r95 74 75 0.7
r96 72 74 0.039111
r97 72 79 0.116667
r98 68 78 0.0684127
r99 67 79 0.0684127
r100 66 78 0.163333
r101 63 66 0.039111
r102 63 64 0.186667
r103 58 77 0.0386436
r104 57 64 0.0534439
r105 45 76 0.0386436
r106 34 75 0.0684127
r107 34 35 0.428571
r108 28 32 0.831548
r109 27 35 0.234737
r110 26 32 0.049177
r111 26 27 6.5
r112 16 30 0.162499
r113 16 35 0.535714
r114 16 30 2.375
r115 13 57 0.0622222
r116 13 58 0.0505556
r117 12 28 5
r118 9 45 0.0661111
r119 6 68 0.0194444
r120 1 67 0.0505556
r121 1 6 0.241111
.ends

.subckt PM_XOR2D2%IN1 3 6 9 13 15
c14 15 0 0.276037f
c15 13 0 0.437068f
c16 9 0 0.785772f
r17 13 17 0.831548
r18 11 15 0.831548
r19 10 17 0.049177
r20 9 11 3.08333
r21 9 10 4.58333
r22 6 15 1.25
r23 3 13 2.5
.ends

.subckt PM_XOR2D2%VSS 1 6 11 12 29 46 47
c40 47 0 1.04239f
c41 46 0 1.05657f
c42 12 0 2.54322f
c43 11 0 2.29868f
c44 6 0 1.53789f
r45 46 47 0.26754
r46 12 47 0.267587
r47 11 46 0.26754
r48 11 29 0.154
r49 6 29 0.121333
r50 1 6 0.163333
.ends

.subckt PM_XOR2D2%VDD 1 4 7 8 19 26 27 33
c40 33 0 1.41344f
c41 27 0 1.04421f
c42 26 0 1.04448f
c43 8 0 2.3447f
c44 7 0 1.33755f
c45 4 0 1.51246f
r46 32 33 0.178873
r47 26 27 0.26754
r48 8 33 0.17892
r49 7 32 0.178873
r50 7 27 0.267587
r51 4 26 0.26754
r52 4 19 0.107333
r53 1 19 0.14
.ends

.subckt PM_XOR2D2%OUT 1 2 13
c11 1 0 1.23704f
r12 2 13 0.028875
r13 1 13 0.027125
r14 1 14 0.0563853
r15 1 14 0.07
.ends

